US07531532B2
2-{[4-(Dimethylaminomethyl)piperidin-1-yl]carbonylamino}-4-{4-[3-(2-phenylacetyl)ureido]phenoxy}pyridine
To a solution of 4-(4-aminophenoxy)-2-{[4-(dimethylaminomethyl)piperidin-1-yl]carbonylamino}pyridine (60.6 mg) in tetrahydrofuran (4.0 ml) was added a solution of 2-phenylacetyl isocyanate in hexane (0.25 M, 1.64 ml) at room temperature, followed by stirring overnight. The reaction mixture was partitioned between ethyl acetate and a saturated aqueous solution of sodium hydrogencarbonate. The organic layer was washed with brine and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then purified by silica gel column chromatography (Fuji Silysia NH, eluent; ethyl acetate) to provide the titled compound (59.5 mg, 68%) as white powder.

reactant | 4-(4-aminophenoxy)-2-{[4-(dimethylaminomethyl)piperidin-1-yl]carbonylamino}pyridine | 60.6 mg | NC1=CC=C(OC2=CC(=NC=C2)NC(=O)N2CCC(CC2)CN(C)C)C=C1 | C20H27N5O2
reactant | 2-phenylacetyl isocyanate | C1(=CC=CC=C1)CC(=O)N=C=O | C9H7NO2
solvent | tetrahydrofuran | 4.0 ml | O1CCCC1 | C4H8O
solvent | hexane | 0.25 M, 1.64 ml | CCCCCC | C6H14
product | 2-{[4-(Dimethylaminomethyl)piperidin-1-yl]carbonylamino}-4-{4-[3-(2-phenylacetyl)ureido]phenoxy}pyridine | 59.5 mg, 68% | CN(C)CC1CCN(CC1)C(=O)NC1=NC=CC(=C1)OC1=CC=C(C=C1)NC(=O)NC(CC1=CC=CC=C1)=O | C29H34N6O4
